US08629147B2
4-Chloro-3-[6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one
To a suspension of 2-(2-chloro-4-iodo-pyridin-3-yl)-6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazole (450 mg, 0.86 mmol) in H2O (1.5 mL) was added a solution of HCl in dioxane (4 M, 20 mL, 80 mmol). After it was heated at 85° C. for 5 h, the reaction mixture was evaporated to dryness under reduced pressure. The residue was purified by chromatography (100:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (53 mg, 15%). 1H NMR (MeOH-d4) δ 1.18 (t, J=8 Hz, 3H), 1.87-2.07 (4H), 2.54 (s, 3H), 2.60-2.91 (6H), 3.19-3.39 (4H), 6.46 (s, 1H), 6.50 (s, 1H), 6.57 (d, J=6 Hz, 1H), 7.51 (d, J=6 Hz, 1H). ESI-MS m/z 412 (MH+).

reactant | 2-(2-chloro-4-iodo-pyridin-3-yl)-6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazole | 0.86 mmol, 450 mg | ClC1=NC=CC(=C1C1=NC2=C(N1)C=C(C=C2C)N2CC1(CC2)CN(CC1)CC)I | C22H25ClIN5
reactant | HCl | Cl | ClH
reactant | dioxane | 80 mmol, 4 M, 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1.5 mL | O | H2O
product | 4-Chloro-3-[6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one | 53 mg, 15% | ClC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CC1(CC2)CN(CC1)CC | C22H26ClN5O
